US05728829
Ethoxycarbonyl-(1-benzotriazolyl)glycine
Ethyl carbamate (69.0 g, 774.5 mmol), glyoxylic acid hydrate (71.3 g, 774.5 mmol) and benzotriazole (92.0 g, 774.5 mmol) were dissolved in toluene (2.3 1) and the mixture was heated with distillation for 3 h to precipitate the product. The mixture was diluted with toluene (totally 2.3 1) and stirred at 15° C. overnight. The resultant precipitate was collected by filtration, washed with toluene (160 ml) and dried to afford the title compound (196.06 g, 96%): mp. 189°-192° C.

reactant | Ethyl carbamate | 774.5 mmol, 69.0 g | C(N)(OCC)=O | C3H7NO2
reactant | glyoxylic acid hydrate | 774.5 mmol, 71.3 g | O.C(C=O)(=O)O
reactant | benzotriazole | 774.5 mmol, 92.0 g | N1N=NC2=C1C=CC=C2 | C6H5N3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethoxycarbonyl-(1-benzotriazolyl)glycine | 196.06 g, 96% | C(C)OC(=O)N(CC(=O)O)N1N=NC2=C1C=CC=C2 | C11H12N4O4
